US08247431B2
Step 6: Preparation of 3-amino-6-chloro-2-methylisonicotinic acid methyl ester
3-Amino-2-bromo-6-chloroisonicotinic acid methyl ester (500 mg), potassium carbonate (829 mg), tetrakis(triphenyl phosphine)palladium(0) and trimethylboroxine (276 mg) were suspended in dioxane (15 mL). Water (1.5 mL) was added and the mixture was degassed using subsequent evaporation and flushing with nitrogen (5×). The reaction mixture was stirred under reflux for 7 hours. After cooling to room temperature, the mixture was quenched with water and extracted 2× with ethyl acetate. The combined organic layer was washed with brine, dried over MgSO4 and concentrated in vacuum. The residue was purified by column chromatography (silica 60, hexane/ethyl acetate=3:1, Rf=0.25) to afford 100 mg of the title compound of the formula

reactant | 3-Amino-2-bromo-6-chloroisonicotinic acid methyl ester | 500 mg | COC(C1=C(C(=NC(=C1)Cl)Br)N)=O | C7H6BrClN2O2
reactant | potassium carbonate | 829 mg | C([O-])([O-])=O.[K+].[K+]
reactant | trimethylboroxine | 276 mg | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | Water | 1.5 mL | O | H2O
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 3-amino-6-chloro-2-methylisonicotinic acid methyl ester | 100 mg | COC(C1=C(C(=NC(=C1)Cl)C)N)=O | C8H9ClN2O2
